US06673800B2
Preparation of 3-[3-(3,4-Dimethoxyphenyl)-4,5-dihydroisoxazol-5-yl]propanal
After dissolving pyridinium chlorochromate (PCC; 2.249 g, 10.435 mmol) and 70-230 mesh SiO2 (2.748 g) in 25 mL of methylene chloride, 3-[3-(3,4-dimethoxyphenyl)-4,5-dihydroisoxazol-5-yl]propan-1-ol (1.374 g, 5.217 mmol) dissolved in 2 mL of methylene chloride was added. After the reaction was continued for about 6 hr, 10 mL of diethyl ether was added and the reaction mixture was filtered through a cellite bed. After removing all the solvent and purifying by column chromatography on silica gel (hexane/ethyl acetate=1.5/1, v/v), 0.72 g (51.6%) of the target compound was obtained.

reactant | pyridinium chlorochromate | 10.435 mmol, 2.249 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | 3-[3-(3,4-dimethoxyphenyl)-4,5-dihydroisoxazol-5-yl]propan-1-ol | 5.217 mmol, 1.374 g | COC=1C=C(C=CC1OC)C1=NOC(C1)CCCO | C14H19NO4
reactant | diethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | 3-[3-(3,4-Dimethoxyphenyl)-4,5-dihydroisoxazol-5-yl]propanal | 0.72 g, 51.6% | COC=1C=C(C=CC1OC)C1=NOC(C1)CCC=O | C14H17NO4
